US03980617
Preparation of a copolymer of acrylamido methyl-4-methoxy-2-hydroxy benzophenone/stearyl methacrylate.
Into a 50 ml flask provided with a condenser, a nitrogen lead in tube and an agitator, there are introduced 2.5g of acrylamido methyl-4-methoxy-2-hydroxy benzophenone, 2.5g of stearyl methacrylate and 0.2g of azobis-isobutyronitrile in solution in 10g of acetone.

reactant | nitrogen lead | [Pb].[N]
reactant | acrylamido methyl-4-methoxy-2-hydroxy benzophenone | 2.5g | C(C=C)(=O)NCC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1OC)O | C18H17NO4
reactant | stearyl methacrylate | 2.5g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | azobis-isobutyronitrile | 0.2g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | CC(=O)C | C3H6O
product | acrylamido methyl-4-methoxy-2-hydroxy benzophenone stearyl methacrylate | C(C=C)(=O)NCC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1OC)O.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | InChI=1S/C22H42O2.C18H17NO4/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-3-16(20)19-11-14-15(23-2)10-9-13(18(14)22)17(21)12-7-5-4-6-8-12/h2,4-20H2,1,3H3;3-10,22H,1,11H2,2H3,(H,19,20)
